US08372807B2
A mixture of 5-methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-ol (200 mg, 0.89 mmol), ethyl bromoisobutyrate (0.14 mL, 0.89 mmol) and potassium carbonate (136 mg, 0.98 mmol) in DMF (3 mL) was stirred at room temperature for 16 hours. Water was then added to the reaction mixture, extracted with ethyl acetate, dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (95% dichloromethane/5% methanol) afforded compound ethyl 2-methyl-2-(5-methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-yloxy)propanoate as a solid.

reactant | 5-methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-ol | 0.89 mmol, 200 mg | CC1=C(C(=NN1)O)C1=CC=CC2=CC=CC=C12 | C14H12N2O
reactant | ethyl bromoisobutyrate | 0.89 mmol, 0.14 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 0.98 mmol, 136 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | ethyl 2-methyl-2-(5-methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-yloxy)propanoate | CC(C(=O)OCC)(C)OC1=NNC(=C1C1=CC=CC2=CC=CC=C12)C | C20H22N2O3
